US05216176
Preparation of 8,8,10-trimethyl-2H,8H-benzo[1,2-b;5,4-b']dipyran-2-one
A solution prepared from 5.0 mmol of 8-methyl-7-hydroxycoumarin and 6.0 mmol of 2-methyl-3-butyn-2-ol in 40 ml of xylene containing 0.095 g (0.50 mmol) of p-toluenesulfonic acid was refluxed with magnetic stirring for 4 hours. The solvent was distilled off in vacuo and the oily contents of the flask chilled in an ice-salt water bath to induce crystallization. The white microneedles, 33% yield, were recrystallized from methanol to analytical purity, m.p. 105°-107° C. (lit. m.p. 106°-107° C.). The 1H-NMR spectrum was also identical to that reported, see P. Rodighiero et al., reference cited above.

reactant | 8-methyl-7-hydroxycoumarin | 5.0 mmol | CC=1C(=CC=C2C=CC(OC12)=O)O | C10H8O3
reactant | 2-methyl-3-butyn-2-ol | 6.0 mmol | CC(C)(C#C)O | C5H8O
reactant | xylene | 0.50 mmol, 40 ml, 0.095 g | C=1(C(=CC=CC1)C)C | C8H10
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 8,8,10-trimethyl-2H,8H-benzo[1,2-b;5,4-b']dipyran-2-one | 33% yield | CC1(C=CC=2C(O1)=C(C=1OC(C=CC1C2)=O)C)C | C15H14O3
